US06541505B1
4-[2-(Bicyclo[2.2.1]hept-2-ylamino)pyrimidin-4-yl]-N-[2-(3-cyano-1H-indol-5-yl)ethyl]benzamide.
Using Bicyclo[2.2.1]hept-2-ylamine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 477 (M+H)+.

reactant | Bicyclo[2.2.1]hept-2-ylamine | C12C(CC(CC1)C2)N | C7H13N
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | 4-[2-(Bicyclo[2.2.1]hept-2-ylamino)pyrimidin-4-yl]-N-[2-(3-cyano-1H-indol-5-yl)ethyl]benzamide | C12C(CC(CC1)C2)NC2=NC=CC(=N2)C2=CC=C(C(=O)NCCC=1C=C3C(=CNC3=CC1)C#N)C=C2 | C29H28N6O
